US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide
A mixture of 1,1-dimethylethyl (2S)-4-[(3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate (33 mg), TFA (0.2 mL) and DCM (1.0 mL) was stirred at room temperature overnight. Then TEA (0.4 mL) was added at −78° C. and the solution was then concentrated. Dilution with MeOH (0.5 mL) followed by separation via a Gilson HPLC (basic conditions) afforded the desired product (13 mg). LC-MS m/z 729 (M+H)+.

reactant | 1,1-dimethylethyl (2S)-4-[(3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 33 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)CC | C48H60N8O5
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 13 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C43H52N8O3
